US08168667B2
(R)-4-[4-(4-hydroxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-trifluoromethylbenzonitrile
5 g of (R)-4-[4-(4-methoxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-trifluoromethylbenzonitrile are dissolved in 50 mL of dichloromethane. 14 mL of boron trifluoride/dimethylsulphide complex are added and the mixture is stirred overnight at AT. It is then poured in an aqueous solution of sodium bicarbonate and the product is extracted with dichloromethane. After drying over magnesium sulphate then evaporation of the solvent, the crude product is purified over a silica gel column (eluent 50/50 heptane/ethyl acetate) to provide 3.5 g of a slightly brown solid.

reactant | (R)-4-[4-(4-methoxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 5 g | COC1=CC=C(C=C1)[C@]1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C | C19H14F3N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-4-[4-(4-hydroxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-trifluoromethylbenzonitrile | OC1=CC=C(C=C1)[C@]1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C | C18H12F3N3O3
